US08470857B2
To a stirred solution of 4-[2-(2-cyano-ethyl)-5-phenyl-pyrrol-1yl]-benzoic acid tert-butyl ester (2.31 mmol, 1.0 eq.) in toluene (12 ml) were added Azidotrimethylsilane (TMSN3) (4.62 mmol, 2.0 eq.) and Sn(Bu)2O (dibutyltin(IV) oxide) (0.23 mmol, 0.1 eq.). The resulting mixture was heated to 110° C. overnight. The solvent was evaporated in vacuo and the residue loaded onto a 40 g RediSep silica-gel column for purification. Gradient elution with methanol/DCM (0% to 7% methanol in DCM over 25 minutes) gave the product 4-{2-phenyl-5-[2-(1H-tetrazol-5-yl)ethyl]-pyrrol-1-yl}-benzoic acid tert-butyl ester as a light yellow oil after combination of the appropriate fractions and evaporation of the solvent in vacuo, 62% yield.

reactant | 4-[2-(2-cyano-ethyl)-5-phenyl-pyrrol-1yl]-benzoic acid tert-butyl ester | 2.31 mmol, 1.0 eq. | C(C)(C)(C)OC(C1=CC=C(C=C1)N1C(=CC=C1C1=CC=CC=C1)CCC#N)=O | C24H24N2O2
reactant | Azidotrimethylsilane | 4.62 mmol, 2.0 eq. | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{2-phenyl-5-[2-(1H-tetrazol-5-yl)ethyl]-pyrrol-1-yl}-benzoic acid tert-butyl ester | 62% yield | C(C)(C)(C)OC(C1=CC=C(C=C1)N1C(=CC=C1CCC1=NN=NN1)C1=CC=CC=C1)=O | C24H25N5O2
